US20010027196A1
2-Amino-4-[(3-chloro-5-trifluoromethyl-pyridin-2-yl-methyl)-amino]-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, 2-aminomethyl-3-chloro-5-(trifluoromethyl) pyridine hydrochloride and DBU in DME. ES-MS m/e (%): 397 (M{37Cl}+H+, 30), 395 (M{35Cl}+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 2-aminomethyl-3-chloro-5-(trifluoromethyl) pyridine hydrochloride | Cl.NCC1=NC=C(C=C1Cl)C(F)(F)F
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-[(3-chloro-5-trifluoromethyl-pyridin-2-yl-methyl)-amino]-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=NC=C(C=C1Cl)C(F)(F)F)C#N)C=1OC=CC1 | C16H10ClF3N6O
